US08183240B2
A mixture of ethyl 4-cyano-5-(2-(fluoromethyl)morpholino)-3-iodothiophene-2-carboxylate (288 mg, 0.000679 mol), 2,4-dichlorophenylboronic acid (262 mg, 0.00137 mol), tetrakis(triphenylphosphine)palladium(0) (51 mg, 0.000044 mol) and sodium carbonate (220 mg, 0.0021 mol) in water (3 mL, 0.1 mol) and 1,2-dimethoxyethane (10 mL, 0.1 mol) was flushed with argon and then irradiated in microwave at 140° C. for 12 min. The reaction mixture was filtered and concentrated in vacuum to afford ethyl 4-cyano-3-(2,4-dichlorophenyl)-5-(2-(fluoromethyl)morpholino)thiophene-2-carboxylate (300 mg, 99%). LCMS: (FA) ES+ 443.15.

reactant | ethyl 4-cyano-5-(2-(fluoromethyl)morpholino)-3-iodothiophene-2-carboxylate | 0.000679 mol, 288 mg | C(#N)C=1C(=C(SC1N1CC(OCC1)CF)C(=O)OCC)I | C13H14FIN2O3S
reactant | 2,4-dichlorophenylboronic acid | 0.00137 mol, 262 mg | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | sodium carbonate | 0.0021 mol, 220 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 0.1 mol, 3 mL | O | H2O
reactant | 1,2-dimethoxyethane | 0.1 mol, 10 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.000044 mol, 51 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 4-cyano-3-(2,4-dichlorophenyl)-5-(2-(fluoromethyl)morpholino)thiophene-2-carboxylate | 300 mg, 99% | C(#N)C=1C(=C(SC1N1CC(OCC1)CF)C(=O)OCC)C1=C(C=C(C=C1)Cl)Cl | C19H17Cl2FN2O3S
